US07319103B2
10-(4-Benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (100 mg, 0.27 mmol) was dissolved in CH3OH (5 mL) and EtOAc (2 mL) followed by the addition of palladium (10% by weight on carbon, 5 mg). The resulting mixture was stirred under a hydrogen atmosphere (balloon) at room temperature overnight. The catalyst was filtered off and the filtrate concentrated to give 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol as a colorless solid (60 mg, 79% yield).

reactant | 10-(4-Benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C24H23N3O
reactant | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | CH3OH | 5 mL | CO | CH4O
catalyst | palladium | 5 mg | [Pd] | Pd
product | 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol | 60 mg, 79% yield | N1=CC=C2N=C3C(=C(N12)C1=CC=C(C=C1)O)CCCCC3 | C17H17N3O
